US05596003
Mix phenyl[1-(2-phenylethyl)-4-piperidinyl]methanone·HCl (5.0g, 15.16mmol), 1N sodium hydroxide (100mL) and methylene chloride (250mL) and stir overnight at room temperature. Separate the organic phase and extract the aqueous phase with methylene chloride. Combine the organic phases, dry (MgSO4) and evaporate the solvent in vacuo to give phenyl[1-(2-phenylethyl)-4-piperidinyl]methanone.

reactant | phenyl[1-(2-phenylethyl)-4-piperidinyl]methanone·HCl | 15.16mmol, 5.0g | C1(=CC=CC=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1.Cl
reactant | sodium hydroxide | 1N, 100mL | [OH-].[Na+]
solvent | methylene chloride | 250mL | C(Cl)Cl | CH2Cl2
product | phenyl[1-(2-phenylethyl)-4-piperidinyl]methanone | C1(=CC=CC=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1 | C20H23NO
